US08236806B2
3-(1-tert-butyl-5-(4-chlorophenyl)-1H-pyrazol-3-yl)propane-1-ol (Formula 6a)
1-(4-chlorophenyl)-6-hydroxyhexane-1,3-dione (2.0 g, 8.310 mmol) was dissolved in 15 mL of methanol. t-BuNHNH2.HCl (2.1 g, 16.620 mmol) was dissolved in 15 mL of methanol and then added with triethylamine (TEA; 2.3 mL, 16.620 mmol). After they were all dissolved, the mixture was added into a solution of 1-(4-chlorophenyl)-6-hydroxyhexane-1,3-dione, and then stirred for 14 hours at 40° C. The reaction progress and completion were confirmed by TLC. Upon completion of the reaction, while the temperature was kept at room temperature, the solvent was removed under reduced pressure. The reaction residue was diluted with EtOAc, and added with water. The aqueous layer was extracted with EtOAc and the organic layer was dried with anhydrous MgSO4 and filtered and concentrated under reduced pressure. The concentrate was separated by column chromatography (EtOAc:Hexane=2:3, v/v) to obtain 1.57 g (64%) of target compound.

reactant | 1-(4-chlorophenyl)-6-hydroxyhexane-1,3-dione | 8.310 mmol, 2.0 g | ClC1=CC=C(C=C1)C(CC(CCCO)=O)=O | C12H13ClO3
reactant | t-BuNHNH2.HCl | 16.620 mmol, 2.1 g | C(C)(C)(C)NN.Cl
reactant | triethylamine | 16.620 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 15 mL | CO | CH4O
product | 3-(1-tert-butyl-5-(4-chlorophenyl)-1H-pyrazol-3-yl)propane-1-ol | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)Cl)CCCO | C16H21ClN2O
